2172-08-29 10:36:00 Physician Attending Progress Note
Chief Complaint: Large mediastinal mass with SVC syndrome and hypoxic
   respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   58F with new diagnosis of small cell carcinoma  with large right sided
   mediastinal mass complicated by SVC syndrome (partial compression),
   airway compromise requiring Y-stent, pleural effusion likely malignant
   s/p pigtail placement, right sided ptx s/p chest tube placement noted
   after hypoxic respiratory failure requiring intubation x 2, pericardial
   effusion, hyponatremia/hyperkalemia admitted to [**Hospital Unit Name 10**] for decompression
   radiation therapy.
   24 Hour Events:
   Hypotension to high 80's, responded to boluses- slightly decreased UOP
   at that time.
   Random cortisol from [**8-26**] - pending
   Decreased hydrocort
   Head CT - no mets
   radiation yesterday, next monday
   chemo to be started today
   vent wean CPAP/PS 14/5 FiO2 0.5
   Patient unable to provide history: Sedated, intubated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Propofol - 25 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2172-8-29**] 05:23 AM
   Heparin Sodium (Prophylaxis) - [**2172-8-29**] 08:22 AM
   Other medications:
   nicotine patch
   chlorhex
   tegratol
   insulin ss
   atrovent
   hydrocort
   keppra
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Unable to obtain
   Flowsheet Data as of  [**2172-8-29**] 10:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.7
C (98.1
   HR: 107 (98 - 111) bpm
   BP: 135/72(94) {99/59(74) - 150/80(106)} mmHg
   RR: 14 (12 - 21) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 55.7 kg (admission): 53 kg
   CVP: 11 (3 - 11)mmHg
   Total In:
                                                                  1,128 mL
                                                                  1,447 mL
   PO:
   TF:
                                                                     73 mL
                                                                    235 mL
   IVF:
                                                                  1,056 mL
                                                                  1,153 mL
   Blood products:
   Total out:
                                                                  1,145 mL
                                                                    581 mL
   Urine:
                                                                    765 mL
                                                                    401 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -17 mL
                                                                    866 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 576 (528 - 637) mL
   PS : 14 cmH2O
   RR (Spontaneous): 14
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 53
   PIP: 20 cmH2O
   SpO2: 100%
   ABG: 7.31/40/103/19/-5
   Ve: 7.5 L/min
   PaO2 / FiO2: 206
   Physical Examination
   General Appearance: intubated/sedated
   Head, Ears, Nose, Throat: upper body edema, including face. +Horner
   Difficulty with accomodation.
   Regular rhythm, tachycardic. No rub.
   Lungs CTAB no w/r/r
 chest tubes in place c/d/i
   Abdomen benign +BS
   Ext
 warm
   Unable to assess neuro well given level of sedation
 moving upper
   extremities.
   Labs / Radiology
   9.6 g/dL
   229 K/uL
   139 mg/dL
   0.9 mg/dL
   19 mEq/L
   4.7 mEq/L
   18 mg/dL
   104 mEq/L
   131 mEq/L
   28.0 %
   9.1 K/uL
        [image002.jpg]
                             [**2172-8-27**]  08:11 AM
                             [**2172-8-27**]  10:09 AM
                             [**2172-8-27**]  12:57 PM
                             [**2172-8-27**]  02:44 PM
                             [**2172-8-27**]  05:24 PM
                             [**2172-8-27**]  09:40 PM
                             [**2172-8-28**]  05:00 AM
                             [**2172-8-28**]  10:49 AM
                             [**2172-8-28**]  04:08 PM
                             [**2172-8-29**]  03:44 AM
   WBC
   12.9
   9.1
   Hct
   31.7
   28.0
   Plt
   286
   229
   Cr
   1.0
   0.8
   0.9
   TCO2
   19
   19
   19
   18
   20
   20
   21
   Glucose
   134
   127
   120
   121
   122
   117
   127
   139
   Other labs: PT / PTT / INR:11.6/25.8/1.0, ALT / AST:[**7-28**], Alk Phos / T
   Bili:75/0.2, Differential-Neuts:92.1 %, Lymph:4.5 %, Mono:3.0 %,
   Eos:0.2 %, Fibrinogen:641 mg/dL, Lactic Acid:1.0 mmol/L, Albumin:3.0
   g/dL, LDH:584 IU/L, Ca++:8.4 mg/dL, Mg++:2.3 mg/dL, PO4:3.7 mg/dL
   Fluid analysis / Other labs: urine osm 433
   transtub gradient 3.88
   Urine Na<10
   Imaging: CT head - no mets
   CXR - RUL collapse with consistent appearance of mass. ?new RLL
   infiltrate with more consolidative appearance
   Microbiology: Pleural fluid - polys - negative
   Blood NGTD
   ECG: sinus tach, low voltage no alternans
   Assessment and Plan
   58F with new diagnosis of small cell carcinoma  with large right sided
   mediastinal mass complicated by SVC syndrome (partial compression),
   airway compromise requiring Y-stent, pleural effusion likely malignant
   s/p pigtail placement, right sided ptx s/p chest tube placement noted
   after hypoxic respiratory failure requiring intubation x 2, pericardial
   effusion, hyponatremia/hyperkalemia admitted to [**Hospital Unit Name 10**] for decompression
   radiation therapy.
   Hypoxic Respiratory Failure - Extrinsic and intrinsic narrowing of
   bronchi on the right with right sided ptx and MPE
   chest tubes in place and pigtail continuing to draining >200cc
   continue wean as tolerated, doing well on CPAP/PS
   chemo to start today, getting rads
   Hypotension
 Responds to IVF. ?adrenal insufficiency but receiving
   appropriate repletion. Hypoaldosteronism also on differential. No
   evidence of tamponade. Could be related to propofol. Unlikely to be
   infectious etiology.
   sputum culture
   blood cx pending
   hold BB
   endocrine recs
   continuing hydrocortisone
   Probable Small Cell Ca- chemo/rads; heme/onc on board
 appreciate
   recommendations and guidance
   SVC syndrome - chemo/rads for decompression
   vascular on board, no recs for intervention
   MPE - cultures are negative, most likely malignant
   Pericardial Eff - no evidence of alternans, no evidence of tamponade on
   exam
 continue to monitor
   Hyponatremia - adrenal insuff, hypaldo, SIADH - likely a mix of all of
   these. Could also be a component of hyponatremic hypovolemia. Urine
   anion gap could be consistent with an RTA or hypoaldo.
   Metabolic Acidosis
 resolving
 could be RTA secondary to hypoaldo.
   Lactate was wnl. Continue to monitor.
   Anemia - stable, no evidence of hemolysis
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2172-8-29**] 07:28 AM 25 mL/hour
   Comments: TF's
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2172-8-26**] 01:00 AM
   18 Gauge - [**2172-8-26**] 03:34 AM
   Multi Lumen - [**2172-8-26**] 03:37 PM
   Comments: right femoral line
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2172-08-30 10:43:00 Physician Attending Progress Note
Chief Complaint: Small Cell Ca, Hypoxic respiratory failure, SVC
   syndrome
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   58 yo F with complicated ICU course with small cell lung ca, SVC
   syndrome, R lung collapse and MPE s/p chest tube placement.
   24 Hour Events:
   Chemo started yesterday
   rested on AC overnight given incomplete compensation for metabolic
   acidosis
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2172-8-30**] 05:28 AM
   Heparin Sodium (Prophylaxis) - [**2172-8-30**] 08:20 AM
   Other medications:
   dexamethasone
   zofran
   etoposide
   carboplatinum x 1
   heparin subcut
   ppi
   nicotine patch
   tegratol
   insulin ss
   atrovent
   hydrocort
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2172-8-30**] 10:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.4
C (99.4
   HR: 106 (87 - 115) bpm
   BP: 158/78(105) {93/60(74) - 158/78(105)} mmHg
   RR: 17 (13 - 23) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 55.7 kg (admission): 53 kg
   Height: 63 Inch
             Total In:
                                                                  3,216 mL
                                                                  1,315 mL
   PO:
             TF:
                                                                    580 mL
                                                                    253 mL
   IVF:
                                                                  2,476 mL
                                                                  1,062 mL
   Blood products:
   Total out:
                                                                  1,331 mL
                                                                    753 mL
   Urine:
                                                                    891 mL
                                                                    513 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,885 mL
                                                                    562 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 334 (334 - 532) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 44
   PIP: 19 cmH2O
   Plateau: 20 cmH2O
   SpO2: 96%
   ABG: 7.32/39/96.[**Numeric Identifier 274**]/17/-5
   Ve: 7.9 L/min
   PaO2 / FiO2: 242
   Physical Examination
   General Appearance: intubated/sedated
   Head, Ears, Nose, Throat: upper body edema, including face. +Horner
   Difficulty with accomodation.
   Regular rhythm, tachycardic. No rub.
   Lungs CTAB no w/r/r
 chest tubes in place c/d/i
   Abdomen benign +BS
   Ext
 warm
   Unable to assess neuro well given level of sedation
 moving upper
   extremities.
   Labs / Radiology
   9.7 g/dL
   259 K/uL
   143 mg/dL
   0.9 mg/dL
   17 mEq/L
   4.9 mEq/L
   23 mg/dL
   106 mEq/L
   132 mEq/L
   29.5 %
   8.0 K/uL
        [image002.jpg]
                             [**2172-8-28**]  05:00 AM
                             [**2172-8-28**]  10:49 AM
                             [**2172-8-28**]  04:08 PM
                             [**2172-8-29**]  03:44 AM
                             [**2172-8-29**]  06:35 PM
                             [**2172-8-29**]  08:50 PM
                             [**2172-8-30**]  01:23 AM
                             [**2172-8-30**]  02:35 AM
                             [**2172-8-30**]  04:00 AM
                             [**2172-8-30**]  04:40 AM
   WBC
   12.9
   9.1
   8.0
   Hct
   31.7
   28.0
   29.5
   Plt
   286
   229
   259
   Cr
   1.0
   0.8
   0.9
   0.9
   0.9
   TCO2
   21
   21
   22
   20
   21
   Glucose
   117
   127
   139
   137
   143
   Other labs: PT / PTT / INR:11.6/25.8/1.0, ALT / AST:[**7-28**], Alk Phos / T
   Bili:75/0.2, Differential-Neuts:92.1 %, Lymph:4.5 %, Mono:3.0 %,
   Eos:0.2 %, Fibrinogen:641 mg/dL, Lactic Acid:0.8 mmol/L, Albumin:3.0
   g/dL, LDH:465 IU/L, Ca++:8.8 mg/dL, Mg++:2.3 mg/dL, PO4:3.3 mg/dL
   Microbiology: pleural fluid - NGTD
   blood NGTD
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**]) - weaning was attempted but
   patient was unable to compensate for her metabolic acidosis. Can retry
   wean today.
   - on chemotherapy and XRT now for SVC syndrome - seems to be some
   improvement in her clinical exam
   -pigtail continues to drain >250cc
   -IP recs
   Metabolic Acidosis - RTA from hypoaldo seems likely - endocrine recs to
   continue to decrease hydrocort
   Small Cell Lung Ca - heme/onc on board, receiving rads and chemo - will
   need MRI head
   on allopurinol and IVF to monitor tumor lysis syndrome
   going up on etoposide dosing today
   resuming radiation tomorrow
   Pericardial Eff - appears stable.
   Tachycardia - restarting BB at low dose today
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2172-8-30**] 01:43 AM 25 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2172-8-26**] 01:00 AM
   Multi Lumen - [**2172-8-26**] 03:37 PM
   Comments: femoral line
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2172-08-31 11:08:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   Received Chemotherapy over weekend.
   Right pigtail chest tube removed this AM by IP service.
   Experienced episodes of sinus pause last PM, without hemodynamic
   compromise
   History obtained from Medical records
   Patient unable to provide history: Sedated, ETT
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2172-8-31**] 06:34 AM
   Heparin Sodium (Prophylaxis) - [**2172-8-31**] 08:05 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2172-8-31**] 10:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.2
   Tcurrent: 37.6
C (99.6
   HR: 110 (81 - 116) bpm
   BP: 163/81(113) {103/56(73) - 172/90(121)} mmHg
   RR: 20 (16 - 27) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 55.7 kg (admission): 53 kg
   Height: 63 Inch
             Total In:
                                                                  2,564 mL
                                                                  1,495 mL
   PO:
             TF:
                                                                    600 mL
                                                                    262 mL
   IVF:
                                                                  1,864 mL
                                                                  1,193 mL
   Blood products:
   Total out:
                                                                  1,398 mL
                                                                    810 mL
   Urine:
                                                                    923 mL
                                                                    580 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,166 mL
                                                                    685 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 373 (373 - 504) mL
   PS : 14 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: Hemodynamic Instability
   PIP: 23 cmH2O
   Plateau: 13 cmH2O
   SpO2: 94%
   ABG: 7.30/44/76.[**Numeric Identifier 433**]/21/-4
   Ve: 8.3 L/min
   PaO2 / FiO2: 152
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Verbal stimuli, No(t) Oriented (to): , Movement: No spontaneous
   movement, Sedated, No(t) Paralyzed, Tone: Normal, Opens eyes to voice,
   but not command.  Flaccid.
   Labs / Radiology
   9.4 g/dL
   298 K/uL
   149 mg/dL
   1.0 mg/dL
   21 mEq/L
   5.2 mEq/L
   38 mg/dL
   111 mEq/L
   136 mEq/L
   29.0 %
   5.7 K/uL
        [image002.jpg]
                             [**2172-8-30**]  02:35 AM
                             [**2172-8-30**]  04:00 AM
                             [**2172-8-30**]  04:40 AM
                             [**2172-8-30**]  12:49 PM
                             [**2172-8-30**]  03:16 PM
                             [**2172-8-30**]  05:51 PM
                             [**2172-8-30**]  06:22 PM
                             [**2172-8-30**]  08:41 PM
                             [**2172-8-31**]  02:30 AM
                             [**2172-8-31**]  02:38 AM
   WBC
   8.0
   5.7
   Hct
   29.5
   29.0
   Plt
   259
   298
   Cr
   0.9
   1.0
   1.0
   TropT
   <0.01
   TCO2
   20
   21
   22
   20
   21
   20
   23
   Glucose
   143
   141
   149
   Other labs: PT / PTT / INR:11.6/25.8/1.0, CK / CKMB /
   Troponin-T:97/4/<0.01, ALT / AST:[**7-28**], Alk Phos / T Bili:75/0.2,
   Differential-Neuts:92.1 %, Lymph:4.5 %, Mono:3.0 %, Eos:0.2 %,
   Fibrinogen:641 mg/dL, Lactic Acid:1.1 mmol/L, Albumin:3.0 g/dL, LDH:384
   IU/L, Ca++:8.8 mg/dL, Mg++:2.3 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   58 yof with new diagnosis of small cell carcinoma  with SVC syndrome
   (partial compression), airway compromise (requiring Y-stent).
   RESPIRATORY FAILURE
 multifactorisl, primarily due to extrinsic and
   intrinsic narrowing of distal trachea and bronchi on the right, on
   background of COPD(?).  Also evidence for new RLL and LLL
   (retrocardiac) infiltrates, concerning for pneumonai (VAP).  Continue
   mechanical ventilation, montior ABG.  Initiate empirical
   antimicrobials.  Monitor sputum, await culture.
   SVC SYNDROME -- much improved over past 48 hrs.  Continue XRT and
   chemotherapy.
   RIGHT PLEURAL EFFUSION -- resolved, s/p chest tube drainage.
   Malignant.  Chest tube now removed.
   RIGHT PNEUMOTHORAX -- chest tube remains in place, lung fully
   expanded.  No evidence for air leak.
   SMALL CELL CA -- demonstating clinical response to XRT and
   chemotherapy.   Radiation Oncology and Oncology services involve
   appreciate recommendations and guidance.  Monitor for tumor lysis.
   Need to better define prognosis.
   PERICARDIAL EFFUSION -- no evidence of tamponade on exam
 continue to
   monitor
   HYPONATREMIA -- improved.  Attributed to adrenal insuff, hypaldo, SIADH
   - likely a mix of all of these.  Continue steroids.
   HYPERTENSION
 monitor BP.  Maintain SBP 140-160 mmHg
   MENTAL STATUS
 consider re-imaging if no improvement when sedation
   d/c
   METABOLIC ACIDOSIS  -- resolving
 could be RTA secondary to
   hypoaldosteronism.  Continue to monitor.
   SINUS DYSRHYTHMIA
 sinus pauses, no hemodynamic compromise.  Possible
   related to hilare mass, possible invovlement of conduction system.
   Monitor electrolytes.  Hold beta-blocker.  Cardiology Consultation in
   progress.
   ANEMIA -- stable, no evidence of hemolysis
   NUTRITIONAL SUPPORT -- NPO.  Consider TF.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2172-8-31**] 07:16 AM 25 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2172-8-26**] 01:00 AM
   Multi Lumen - [**2172-8-26**] 03:37 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2172-09-01 11:32:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains mechanically ventilated via ETT.
   Remains sedated.
   History obtained from Medical records
   Patient unable to provide history: Sedated, ETT
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2172-8-31**] 12:16 PM
   Ciprofloxacin - [**2172-9-1**] 05:31 AM
   Vancomycin - [**2172-9-1**] 08:09 AM
   Infusions:
   Propofol - 15 mcg/Kg/min
   Other ICU medications:
   Hydralazine - [**2172-9-1**] 05:45 AM
   Heparin Sodium (Prophylaxis) - [**2172-9-1**] 08:08 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2172-9-1**] 11:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.1
C (98.8
   HR: 112 (108 - 121) bpm
   BP: 118/68(79) {100/62(71) - 162/77(98)} mmHg
   RR: 17 (17 - 25) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 68.7 kg (admission): 53 kg
   Height: 63 Inch
             Total In:
                                                                  3,246 mL
                                                                    777 mL
   PO:
             TF:
                                                                    600 mL
                                                                    280 mL
   IVF:
                                                                  2,447 mL
                                                                    367 mL
   Blood products:
   Total out:
                                                                  1,365 mL
                                                                    880 mL
   Urine:
                                                                  1,135 mL
                                                                    750 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,881 mL
                                                                   -103 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 110
   PIP: 28 cmH2O
   Plateau: 22 cmH2O
   SpO2: 93%
   ABG: 7.30/41/80.[**Numeric Identifier 500**]/19/-5
   Ve: 11.9 L/min
   PaO2 / FiO2: 160
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, No(t)
   Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Increased upper extremity edema; Right lower extremity
   edema: Absent, Left lower extremity edema: Absent, No(t) Cyanosis,
   No(t) Clubbing
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Verbal stimuli, No(t) Oriented (to): , Movement: Purposeful, but
   limited., Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   9.4 g/dL
   307 K/uL
   113 mg/dL
   1.3 mg/dL
   19 mEq/L
   5.3 mEq/L
   55 mg/dL
   111 mEq/L
   140 mEq/L
   29.6 %
   6.0 K/uL
        [image002.jpg]
                             [**2172-8-30**]  06:22 PM
                             [**2172-8-30**]  08:41 PM
                             [**2172-8-31**]  02:30 AM
                             [**2172-8-31**]  02:38 AM
                             [**2172-8-31**]  12:00 PM
                             [**2172-8-31**]  02:14 PM
                             [**2172-8-31**]  06:00 PM
                             [**2172-9-1**]  12:00 AM
                             [**2172-9-1**]  04:31 AM
                             [**2172-9-1**]  05:21 AM
   WBC
   5.7
   6.0
   Hct
   29.0
   29.6
   Plt
   298
   307
   Cr
   1.0
   1.3
   TropT
   <0.01
   TCO2
   21
   20
   23
   19
   21
   Glucose
   149
   145
   160
   158
   113
   Other labs: PT / PTT / INR:11.6/25.8/1.0, CK / CKMB /
   Troponin-T:97/4/<0.01, ALT / AST:[**7-28**], Alk Phos / T Bili:75/0.2,
   Differential-Neuts:86.0 %, Band:11.0 %, Lymph:1.0 %, Mono:2.0 %,
   Eos:0.0 %, Fibrinogen:641 mg/dL, Lactic Acid:1.1 mmol/L, Albumin:3.0
   g/dL, LDH:366 IU/L, Ca++:8.8 mg/dL, Mg++:2.4 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   58 yof with new diagnosis of small cell carcinoma  with SVC syndrome
   (partial compression), airway compromise (requiring Y-stent).
   RESPIRATORY FAILURE
 multifactorisl, primarily due to extrinsic and
   intrinsic narrowing of distal trachea and bronchi on the right, on
   background of COPD(?).  Also evidence for new RLL and LLL
   (retrocardiac) infiltrates, concerning for pneumonai (VAP) -->
   empirical antimicrobials.  Continue mechanical ventilation, montior
   ABG.  Monitor sputum, await culture.  Hope to eventually work towards
   SBT and extubation once completes VAP treatment and completes chemoRx
   and XRT.
   SVC SYNDROME -- much improved over past 48 hrs.  Continue XRT and
   chemotherapy.
   RIGHT PLEURAL EFFUSION -- resolved, s/p chest tube drainage.
   Malignant.  Chest tube now removed.
   RIGHT PNEUMOTHORAX -- chest tube remains in place, lung fully
   expanded.  No evidence for air leak.
   SMALL CELL CA -- demonstating clinical response to XRT and
   chemotherapy.   Radiation Oncology and Oncology services involve
   appreciate recommendations and guidance.  Monitor for tumor lysis.
   Need to better define prognosis.
   PERICARDIAL EFFUSION -- no evidence of tamponade on exam
 continue to
   monitor
   HYPONATREMIA -- improved.  Attributed to adrenal insuff, hypaldo, SIADH
   - likely a mix of all of these.  Continue steroids.
   HYPERTENSION
 monitor BP.  Maintain SBP 140-160 mmHg
   FLUIDS -- positive fluid balance, likely related to chemotherapy
   agents.  Appears pre-renal, however
 continue net hydration.
   RENAL FAILURE -- rising creatinine, falling urine output.  Possible
   pre-renal.  Monitor urine output, BUN, creatinine.
   MENTAL STATUS
 consider re-imaging if no improvement when sedation
   d/c
   METABOLIC ACIDOSIS  -- resolving
 could be RTA secondary to
   hypoaldosteronism.  Continue to monitor.
   SINUS DYSRHYTHMIA
 sinus pauses, no hemodynamic compromise.  Possible
   related to hilar mass, possible invovlement of conduction system.
   Possible vagal tone.  Monitor electrolytes.  Hold beta-blocker.
   Cardiology Consultation in progress.
   ANEMIA -- stable, no evidence of hemolysis
   NUTRITIONAL SUPPORT -- NPO.  Consider TF.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2172-9-1**] 03:17 AM 25 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2172-8-26**] 01:00 AM
   Multi Lumen - [**2172-8-26**] 03:37 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2172-09-02 11:02:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   Remains off sedation >24 hrs, with poor mental status --> head CT this
   AM.
   Received XRT to right chest this AM.
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2172-9-1**] 05:31 AM
   Cefipime - [**2172-9-1**] 12:18 PM
   Vancomycin - [**2172-9-2**] 08:57 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2172-9-2**] 12:01 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   Right chest tube
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: Lymphadenopathy, Anemia, Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2172-9-2**] 10:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.2
C (99
   HR: 112 (109 - 120) bpm
   BP: 147/78(105) {67/47(56) - 149/81(106)} mmHg
   RR: 23 (18 - 29) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 68.7 kg (admission): 53 kg
   Height: 63 Inch
             Total In:
                                                                  2,139 mL
                                                                  1,495 mL
   PO:
             TF:
                                                                    600 mL
                                                                    261 mL
   IVF:
                                                                    599 mL
                                                                    974 mL
   Blood products:
   Total out:
                                                                  1,645 mL
                                                                  1,055 mL
   Urine:
                                                                  1,285 mL
                                                                    955 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    494 mL
                                                                    440 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 430 (430 - 500) mL
   RR (Set): 28
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 60%
   RSBI Deferred: Unstable Airway
   PIP: 30 cmH2O
   Plateau: 22 cmH2O
   Compliance: 33.1 cmH2O/mL
   SpO2: 96%
   ABG: 7.28/45/86.[**Numeric Identifier **]/19/-5
   Ve: 12.4 L/min
   PaO2 / FiO2: 145
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, No(t)
   Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Verbal stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t)
   Sedated, No(t) Paralyzed, Tone: Decreased;  Flaccid extremities.,
   Spontaneously opens eyes, but not to command.  Grimaces to painful
   stimulus.
   Labs / Radiology
   8.7 g/dL
   299 K/uL
   114 mg/dL
   1.7 mg/dL
   19 mEq/L
   5.2 mEq/L
   82 mg/dL
   111 mEq/L
   140 mEq/L
   27.7 %
   4.3 K/uL
        [image002.jpg]
                             [**2172-8-31**]  02:14 PM
                             [**2172-8-31**]  06:00 PM
                             [**2172-9-1**]  12:00 AM
                             [**2172-9-1**]  04:31 AM
                             [**2172-9-1**]  05:21 AM
                             [**2172-9-1**]  05:11 PM
                             [**2172-9-1**]  06:02 PM
                             [**2172-9-1**]  10:04 PM
                             [**2172-9-2**]  03:57 AM
                             [**2172-9-2**]  04:14 AM
   WBC
   6.0
   4.3
   Hct
   29.6
   27.7
   Plt
   307
   299
   Cr
   1.3
   1.6
   1.7
   TCO2
   19
   21
   21
   19
   22
   Glucose
   160
   158
   113
   126
   114
   Other labs: PT / PTT / INR:11.6/25.8/1.0, CK / CKMB /
   Troponin-T:97/4/<0.01, ALT / AST:[**7-28**], Alk Phos / T Bili:75/0.2,
   Differential-Neuts:98.0 %, Band:1.0 %, Lymph:0.0 %, Mono:1.0 %, Eos:0.0
   %, Fibrinogen:641 mg/dL, Lactic Acid:1.1 mmol/L, Albumin:3.0 g/dL,
   LDH:366 IU/L, Ca++:8.7 mg/dL, Mg++:2.5 mg/dL, PO4:4.5 mg/dL
   Assessment and Plan
   58 yof with new diagnosis of small cell carcinoma  with SVC syndrome
   (partial compression), airway compromise (requiring Y-stent).
   RESPIRATORY FAILURE
 multifactorisl, primarily due to extrinsic and
   intrinsic narrowing of distal trachea and bronchi on the right, on
   background of COPD(?).  Also evidence for new RLL and LLL
   (retrocardiac) infiltrates, concerning for pneumonai (VAP) -->
   empirical antimicrobials.  Continue mechanical ventilation, montior
   ABG.  Monitor sputum, await culture.  Hope to eventually work towards
   SBT and extubation once completes VAP treatment and completes chemoRx
   and XRT.
   PULMONARY INFILTRATES -- RLL > LLL --> attributed to VAP.  Now on
   antimicrobials.  Monitor.
   MENTAL STATUS
 very slow to awken, now off Propofol >24 hrs.  Repeat
   head CT unrevealing for new pathology.  MRI not possible due to
   presence of intracranial surgical clips.  Underlying seizure disorder
   (on kepra) --> Plan EEG (continuous) to assess for non-convulsive
   status epilepticus.  LP for CSF analysis (concern for carcinomatous
   meningitis).  Consider Neurological Consultation.  [**Month (only) 11**] be toxic
   metabolic.
   SVC SYNDROME -- much improved over past 48 hrs.  Completed
   chemotherapy, continue XRT.
   RIGHT PLEURAL EFFUSION -- resolved, s/p chest tube drainage.
   Malignant.  Chest tube now removed.
   RIGHT PNEUMOTHORAX -- chest tube remains in place, lung fully
   expanded.  No evidence for air leak.
   SMALL CELL CA -- demonstating clinical response to XRT and
   chemotherapy.   Radiation Oncology and Oncology services involve
   appreciate recommendations and guidance.  Monitor for tumor lysis.
   Need to better define prognosis.
   PERICARDIAL EFFUSION -- no evidence of tamponade on exam
 continue to
   monitor.
   HYPONATREMIA -- improved.  Attributed to adrenal insufficiency,
   hypaldosteronism, SIADH --> possibly a mixture.  Continue steroids.
   HYPERTENSION
 monitor BP.  Maintain SBP 140-160 mmHg
   FLUIDS -- positive fluid balance, likely related to chemotherapy
   agents.  However, appears pre-renal --> continue net hydration.
   Monitor I/O.
   RENAL FAILURE -- rising creatinine, falling urine output.  Possible
   pre-renal, possibly related to chemotherapy and recent contrast dye.
   Monitor urine output, BUN, creatinine.
   METABOLIC ACIDOSIS  -- persistent, mild
 could be RTA secondary to
   hypoaldosteronism.  Continue to monitor.
   SEIZURE DISORDER -- continue kepra.  EEG to assess for non-convulsive
   status.
   SINUS DYSRHYTHMIA
 sinus pauses, no hemodynamic compromise.  Possible
   related to hilar mass, possible invovlement of conduction system.
   Possible vagal tone.  Monitor electrolytes.  Hold beta-blocker.
   Cardiology Consultation -- possible vagal response, and without need
   for specific intervention.
   ANEMIA -- stable, no evidence of hemolysis
   NUTRITIONAL SUPPORT -- TF.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2172-9-1**] 08:00 PM 25 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2172-8-26**] 01:00 AM
   Multi Lumen - [**2172-8-26**] 03:37 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill
   ------ Protected Section ------
   MICU Attending Addendum:
   Experienced bradycardia (junctional rhythm), hypotension and skin
   mottling.  Some improvement with suctioning, but significant resistance
   to catheter advancement.  Urgent bronchscopy revealed tip of ETT
   migrated between silcone Y-stent  and tracheal wall.  ETT repositioned
   under fiberoptic bronchoscopy guidance, and copious milky white
   secretions aspirated.  (See complete procedure note).  Tolerated well.
   BP, HR and SaO2 improved dramatically.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2172-9-2**] 15:38 ------

2172-09-03 10:17:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   Perhaps more awake, remains off sedation.  [**Month (only) 11**] be following simple
   commands intermittently.
   History obtained from Medical records
   Patient unable to provide history: Unresponsive
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2172-9-1**] 05:31 AM
   Vancomycin - [**2172-9-2**] 08:57 AM
   Cefipime - [**2172-9-2**] 12:18 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2172-9-3**] 12:36 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, No(t) Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2172-9-3**] 10:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37.1
C (98.7
   HR: 107 (59 - 112) bpm
   BP: 134/66(91) {69/42(52) - 168/84(119)} mmHg
   RR: 10 (10 - 30) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 68.7 kg (admission): 53 kg
   Height: 63 Inch
             Total In:
                                                                  4,159 mL
                                                                    699 mL
   PO:
             TF:
                                                                    560 mL
                                                                    249 mL
   IVF:
                                                                  2,799 mL
                                                                     30 mL
   Blood products:
   Total out:
                                                                  1,740 mL
                                                                    620 mL
   Urine:
                                                                  1,515 mL
                                                                    580 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,419 mL
                                                                     79 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 430 (430 - 430) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI Deferred: Unstable Airway
   PIP: 27 cmH2O
   Plateau: 23 cmH2O
   SpO2: 95%
   ABG: 7.32/39/77/17/-5
   Ve: 9.4 L/min
   PaO2 / FiO2: 193
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Verbal stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t)
   Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   8.5 g/dL
   238 K/uL
   126 mg/dL
   2.0 mg/dL
   17 mEq/L
   4.5 mEq/L
   101 mg/dL
   113 mEq/L
   143 mEq/L
   26.3 %
   1.1 K/uL
        [image002.jpg]
                             [**2172-9-1**]  10:04 PM
                             [**2172-9-2**]  03:57 AM
                             [**2172-9-2**]  04:14 AM
                             [**2172-9-2**]  02:30 PM
                             [**2172-9-2**]  03:47 PM
                             [**2172-9-2**]  04:01 PM
                             [**2172-9-2**]  08:07 PM
                             [**2172-9-2**]  11:00 PM
                             [**2172-9-3**]  05:45 AM
                             [**2172-9-3**]  06:02 AM
   WBC
   4.3
   1.1
   Hct
   27.7
   26.3
   Plt
   299
   238
   Cr
   1.7
   1.9
   2.0
   2.0
   TCO2
   19
   22
   21
   20
   18
   21
   Glucose
   114
   119
   125
   126
   Other labs: PT / PTT / INR:11.6/25.8/1.0, CK / CKMB /
   Troponin-T:97/4/<0.01, ALT / AST:[**7-28**], Alk Phos / T Bili:75/0.2,
   Differential-Neuts:98.0 %, Band:1.0 %, Lymph:0.0 %, Mono:1.0 %, Eos:0.0
   %, Fibrinogen:641 mg/dL, Lactic Acid:0.8 mmol/L, Albumin:2.0 g/dL,
   LDH:366 IU/L, Ca++:8.2 mg/dL, Mg++:2.6 mg/dL, PO4:5.0 mg/dL
   Assessment and Plan
   58 yof with new diagnosis of small cell carcinoma  with SVC syndrome
   (partial compression), airway compromise (requiring Y-stent).
   RESPIRATORY FAILURE
 multifactorial, malpositioning/migration of ETT
   between stent and tracheal wall.  Also underlying extrinsic and
   intrinsic narrowing of distal trachea and bronchi on the right, on
   background of COPD(?).  Also evidence for new RLL and LLL
   (retrocardiac) infiltrates, concerning for pneumonai (VAP) -->
   empirical antimicrobials.  Continue mechanical ventilation, montior
   ABG.  Monitor sputum, await culture.  Hope to eventually work towards
   SBT and extubation once completes VAP treatment and completes chemoRx
   and XRT.
   PULMONARY INFILTRATES -- RLL  --> attributed to VAP.  Now on
   antimicrobials.  Monitor.  LLL infiltrate resolved over past 24 hrs,
   suspect related to mucus plug and /or atalectasis.
   MENTAL STATUS
 very slow to awken, now off Propofol >24 hrs.  Repeat
   head CT unrevealing for new pathology.  MRI not possible due to
   presence of intracranial surgical clips.  Underlying seizure disorder
   (on kepra) --> await EEG interpretation.   LP for CSF analysis (concern
   for carcinomatous meningitis).  Consider Neurological Consultation.
   [**Month (only) 11**] be toxic metabolic.
   SVC SYNDROME -- much improved over past 48 hrs.  Completed
   chemotherapy, continue XRT.
   SMALL CELL CA -- demonstating clinical response to XRT and
   chemotherapy.   Radiation Oncology and Oncology services involve
   appreciate recommendations and guidance.  Monitor for tumor lysis.
   Need to better define prognosis.  Plan repeat Chest CT to assess
   influence of XRT and chemotherapy on tumor mass.
   RIGHT PLEURAL EFFUSION -- resolved, s/p chest tube drainage.
   Malignant.  Chest tube now removed.
   RIGHT PNEUMOTHORAX -- chest tube remains in place, lung fully
   expanded.  No evidence for air leak.
   PERICARDIAL EFFUSION -- no evidence of tamponade on exam
 continue to
   monitor.
   HYPONATREMIA -- improved.  Attributed to adrenal insufficiency,
   hypaldosteronism, SIADH --> possibly a mixture.  Continue steroids.
   HYPERTENSION
 monitor BP.  Maintain SBP 140-160 mmHg
   FLUIDS -- positive fluid balance, likely related to chemotherapy
   agents.  However, appears pre-renal --> continue net hydration.
   Monitor I/O.
   RENAL FAILURE -- rising creatinine, falling urine output.  Possible
   pre-renal, possibly related to chemotherapy and recent contrast dye.
   Monitor urine output, BUN, creatinine.
   METABOLIC ACIDOSIS  -- persistent, positive anion gap
 attributed to
   acute renal failure and ATN.  Continue to monitor.
   SEIZURE DISORDER -- continue kepra.  EEG to assess for non-convulsive
   status.
   SINUS DYSRHYTHMIA
 sinus pauses, no hemodynamic compromise.  Possible
   related to hilar mass, possible invovlement of conduction system.
   Possible vagal tone.  Monitor electrolytes.  Hold beta-blocker.
   Cardiology Consultation -- possible vagal response, and without need
   for specific intervention.
   ANEMIA -- stable, no evidence of hemolysis
   NUTRITIONAL SUPPORT -- TF.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2172-9-2**] 05:36 PM 25 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2172-8-26**] 01:00 AM
   Multi Lumen - [**2172-8-26**] 03:37 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2172-09-04 11:13:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   Remains off propofol.
   History obtained from Medical records
   Patient unable to provide history: Sedated, ETT
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2172-9-2**] 08:57 AM
   Cefipime - [**2172-9-2**] 12:18 PM
   Ciprofloxacin - [**2172-9-4**] 05:37 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2172-9-4**] 08:18 AM
   Heparin Sodium (Prophylaxis) - [**2172-9-4**] 08:18 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2172-9-4**] 11:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.7
C (98
   HR: 110 (100 - 111) bpm
   BP: 147/78(104) {121/65(86) - 163/80(111)} mmHg
   RR: 28 (8 - 29) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 66.8 kg (admission): 53 kg
   Height: 63 Inch
             Total In:
                                                                  2,061 mL
                                                                    503 mL
   PO:
             TF:
                                                                    602 mL
                                                                    273 mL
   IVF:
                                                                    139 mL
                                                                    230 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  1,610 mL
                                                                  1,085 mL
   Urine:
                                                                  1,470 mL
                                                                    780 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    451 mL
                                                                   -582 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 430 (430 - 430) mL
   RR (Set): 28
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 84
   PIP: 30 cmH2O
   Plateau: 25 cmH2O
   SpO2: 97%
   ABG: 7.34/35/122/19/-5
   Ve: 13.6 L/min
   PaO2 / FiO2: 305
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, No(t)
   Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, Loud, No(t) Widely split , No(t)
   Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , No(t) Crackles : , No(t) Bronchial: ,
   No(t) Wheezes : , No(t) Diminished: , No(t) Absent : , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t) Sedated,
   No(t) Paralyzed, Tone: Decreased, Somnulant, opens eyes to voice
   Labs / Radiology
   10.1 g/dL
   176 K/uL
   124 mg/dL
   2.2 mg/dL
   19 mEq/L
   4.2 mEq/L
   116 mg/dL
   116 mEq/L
   144 mEq/L
   31.4 %
   0.2 K/uL
        [image002.jpg]
                             [**2172-9-2**]  03:47 PM
                             [**2172-9-2**]  04:01 PM
                             [**2172-9-2**]  08:07 PM
                             [**2172-9-2**]  11:00 PM
                             [**2172-9-3**]  05:45 AM
                             [**2172-9-3**]  06:02 AM
                             [**2172-9-3**]  10:11 AM
                             [**2172-9-3**]  11:17 AM
                             [**2172-9-4**]  05:17 AM
                             [**2172-9-4**]  05:36 AM
   WBC
   1.1
   0.2
   Hct
   26.3
   31.4
   Plt
   238
   176
   Cr
   1.9
   2.0
   2.0
   2.2
   TCO2
   20
   18
   21
   18
   20
   20
   Glucose
   119
   125
   126
   124
   Other labs: PT / PTT / INR:11.6/25.8/1.0, CK / CKMB /
   Troponin-T:97/4/<0.01, ALT / AST:13/27, Alk Phos / T Bili:87/0.2,
   Differential-Neuts:98.0 %, Band:1.0 %, Lymph:0.0 %, Mono:1.0 %, Eos:0.0
   %, Fibrinogen:641 mg/dL, Lactic Acid:0.8 mmol/L, Albumin:2.0 g/dL,
   LDH:366 IU/L, Ca++:8.4 mg/dL, Mg++:2.8 mg/dL, PO4:5.5 mg/dL
   Assessment and Plan
   58 yof with new diagnosis of small cell carcinoma  with SVC syndrome
   (partial compression), airway compromise (requiring Y-stent).
   RESPIRATORY FAILURE
 multifactorial, malpositioning/migration of ETT
   between stent and tracheal wall.  Also underlying extrinsic and
   intrinsic narrowing of distal trachea and bronchi on the right, on
   background of COPD(?).  Also evidence for new RLL and LLL
   (retrocardiac) infiltrates, concerning for pneumonai (VAP) -->
   empirical antimicrobials.  Continue mechanical ventilation, montior
   ABG.  Monitor sputum, await culture.  Hope to eventually work towards
   SBT and extubation once completes VAP treatment and mental status.
   PULMONARY INFILTRATES -- RLL  --> attributed to VAP.  Now on
   antimicrobials.  Monitor.  LLL infiltrate resolved over past 24 hrs,
   suspect related to mucus plug and /or atalectasis.
   MENTAL STATUS
 very slow to awken, now off Propofol >24 hrs.  Repeat
   head CT unrevealing for new pathology.  MRI not possible due to
   presence of intracranial surgical clips.  Underlying seizure disorder
   (on kepra) --> await EEG interpretation.   No evidence for
   carcinomatous meningitis by LP.  Consider Neurological Consultation.
   [**Month (only) 11**] be toxic metabolic.
   SVC SYNDROME
 mucy improved over initial 48 hrs following XRT.
   Completed chemotherapy.  Limited subsequent change.  Monitor exam.
   SMALL CELL CA -- demonstating clinical response to XRT and
   chemotherapy.   Radiation [**Month (only) 4774**] and [**Month (only) 4774**] services involve
   appreciate recommendations and guidance.  Monitor for tumor lysis.
   Need to better define prognosis.  Plan repeat Chest CT to assess
   influence of XRT and chemotherapy on tumor mass.
   NEUTROPENIA
 continue precautions.
   RENAL FAILURE -- evidence for ATN (muddy brown casts on UA).  Prerenal
   and contrast dye induced.  COntinue bicitra
   RIGHT PLEURAL EFFUSION -- resolved, s/p chest tube drainage.
   Malignant.  Chest tube now removed.  No radiographic evidence for
   reaccumulation.
   RIGHT PNEUMOTHORAX -- chest tube remains in place, lung fully
   expanded.  No evidence for air leak.
   PERICARDIAL EFFUSION -- no evidence of tamponade on exam
 continue to
   monitor.
   HYPERTENSION
 monitor BP.  Maintain SBP 140-160 mmHg
   FLUIDS -- positive fluid balance, likely related to chemotherapy
   agents.  However, appears pre-renal --> continue net hydration.
   Monitor I/O.
   METABOLIC ACIDOSIS  -- persistent, positive anion gap
 attributed to
   acute renal failure and ATN.  Continue to monitor.
   SEIZURE DISORDER
 No active seizures.  Continue kepra.  EEG to assess
   for non-convulsive status.
   SINUS DYSRHYTHMIA
 sinus pauses, no hemodynamic compromise.
   Attributed to vagal tone, possible related to hilar mass, possible
   invovlement of conduction system.  No intervention at this time.
   Monitor.
   ANEMIA -- stable, no evidence of hemolysis
   NUTRITIONAL SUPPORT -- TF.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2172-9-4**] 07:45 AM 25 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2172-8-26**] 01:00 AM
   Multi Lumen - [**2172-8-26**] 03:37 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: H2 blocker
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill
   ------ Protected Section ------
   MICU Attending Addendum:
   Telephone discussion with patient
s son [**Name (NI) **] (HCP).  Updated patient
   medical condition and answered all questions.  Plan for family meeting
   (including [**Doctor First Name **], patient
s sisters and patients
 significant-other,
   nursing, MICU physician, [**Name10 (NameIs) 4774**] and Radiation [**Name10 (NameIs) 4774**], and Social
   Work) on [**Name10 (NameIs) 305**] afternoon
 time to be determined.  Son requests that
   social worker or nursing call [**Name (NI) 305**] morning to confirm time.  Also,
   son clearly stated that in the event of severe cardiac decompensation,
   no CPR or defibrillation be administered.  Plan to continue at current
   level of care, and to include vasopressors or cardiac meds should these
   be indicated.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2172-9-4**] 19:06 ------

2172-09-05 11:24:00 Physician Attending Progress Note
Chief Complaint: resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   58 yof with resp failure in context of newly diagnosed small [**First Name9 (NamePattern2) 7925**] [**Doctor Last Name **]
   ca  c/b SVC syndrome (partial compression), airway compromise
   (requiring Y-stent), and ptx admitted to [**Hospital Unit Name **] for radiation and chemo
   initiation.
   24 Hour Events:
 BRONCHOSCOPY - At [**2172-9-4**] 04:51 PM
   bronched yesterday for hypoxemia
 ET against stent wall-->repositioned
   D5W for free water deficit
   code status changed to DNR after family update by phone
   Tachy and hypotensive this am
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2172-9-4**] 12:00 PM
   Ciprofloxacin - [**2172-9-5**] 05:27 AM
   Infusions:
   Other ICU medications:
   Hydralazine - [**2172-9-4**] 12:35 PM
   Heparin Sodium (Prophylaxis) - [**2172-9-5**] 07:57 AM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2172-9-5**] 11:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.7
C (98.1
   HR: 120 (109 - 120) bpm
   BP: 111/49(64) {111/49(64) - 116/67(78)} mmHg
   RR: 29 (25 - 29) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 66.2 kg (admission): 53 kg
   Height: 63 Inch
             Total In:
                                                                  1,503 mL
                                                                  1,272 mL
   PO:
             TF:
                                                                    603 mL
                                                                    264 mL
   IVF:
                                                                    450 mL
                                                                  1,008 mL
   Blood products:
   Total out:
                                                                  2,065 mL
                                                                  1,360 mL
   Urine:
                                                                  1,760 mL
                                                                    660 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -562 mL
                                                                    -88 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (430 - 500) mL
   RR (Set): 28
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 60%
   RSBI Deferred: FiO2 > 60%
   PIP: 22 cmH2O
   Plateau: 22 cmH2O
   SpO2: 93%
   ABG: 7.28/36/117/19/-8
   Ve: 10.2 L/min
   PaO2 / FiO2: 195
   Physical Examination
   General Appearance: No(t) Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Lymphatic: No(t) Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), tachy, irreg
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: No(t)
   Diminished: , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Unresponsive, No(t) Sedated, No(t) Paralyzed,
   Labs / Radiology
   9.6 g/dL
   90 K/uL
   174 mg/dL
   2.5 mg/dL
   19 mEq/L
   3.9 mEq/L
   133 mg/dL
   117 mEq/L
   147 mEq/L
   30.0 %
   0.1 K/uL
        [image002.jpg]
                             [**2172-9-3**]  06:02 AM
                             [**2172-9-3**]  10:11 AM
                             [**2172-9-3**]  11:17 AM
                             [**2172-9-4**]  05:17 AM
                             [**2172-9-4**]  05:36 AM
                             [**2172-9-4**]  10:26 PM
                             [**2172-9-4**]  10:59 PM
                             [**2172-9-5**]  01:15 AM
                             [**2172-9-5**]  05:13 AM
                             [**2172-9-5**]  05:26 AM
   WBC
   0.2
   0.1
   Hct
   31.4
   30.0
   Plt
   176
   90
   Cr
   2.2
   2.5
   2.5
   TCO2
   21
   18
   20
   20
   19
   18
   18
   Glucose
   124
   162
   174
   Other labs: PT / PTT / INR:13.5/26.3/1.2, CK / CKMB /
   Troponin-T:97/4/<0.01, ALT / AST:13/27, Alk Phos / T Bili:87/0.2,
   Differential-Neuts:40.0 %, Band:0.0 %, Lymph:60.0 %, Mono:0.0 %,
   Eos:0.0 %, Fibrinogen:641 mg/dL, Lactic Acid:0.7 mmol/L, Albumin:1.8
   g/dL, LDH:366 IU/L, Ca++:8.2 mg/dL, Mg++:3.0 mg/dL, PO4:6.6 mg/dL
   Imaging: ct chest reviewed
   no repeat cxr
   Microbiology: [**9-4**]--csf neg for malignant cells/infection
   c diff neg
   blood neg
   Assessment and Plan
   58 yo f with respiratory failure in setting of newly diagnosed of small
   cell lung ca c/b SVC syndrome (partial compression), airway compromise
   (requiring Y-stent) admitted for xrt and chemotherapy
   Issues include:
          Resp failure
          Small cell lung ca, airway collapse, R effusion
          Svc syndrome
          R pnx
          VAP
          Altered MS
          Tachycardia
          Hypotension
          ARF
          Thrombocytopenia
          hypernatremia
   Pt
s respiratory failure is multifactorial, [**2-10**]
   malpositioning/migration of ETT between stent and tracheal wall,
   extrinsic and intrinsic narrowing of distal trachea and bronchi [**2-10**]
   lung mass, probable underlying COPD, and RLL and LLL (retrocardiac)
   infiltrates concerning for pneumonia (VAP), plugging.  We continue
   empiric antiibx (vanco,cipro,cef) to complete 8 day course, following
   vanco levels.  Continue ACV support, adjusting MV to optimize pH as
   able.  Given her AMS and high rate requirements she is not a candidate
   for SBT or wean.  R CT remains in position while on MV.
   She remains tachy and more hypotensive this am.  DDX includes--? new
   infection (on broad empiric coverage),  tension pnx, progression of
   pericardial effusion/tamponade and PE.   Bolus IVF, stat ecg as rate
   appears irregular, repeat cxr, and d/w cards repeat echo to assess for
   tamponade.  Pt is poor candidate for empiric antbx given necrotic tumor
   and thrombocytopenia and would hold on CTA gven ARF.  TEE may offer
   additional info regarding RV fx/.  Will also [**Doctor Last Name **] LENIs.  Pan cx. Trend
   lactates., given underlying lung process, her dead space fraction will
   be high and this is unlikely to clarify PE issue.
   She remains unresponsive, now off Propofol X 2 days.  Repeat head CT
   unrevealing. MRI not possible due to presence of intracranial surgical
   clips.  No evidence of sz on eeg. No evidence for carcinomatous
   meningitis by LP.  Likely most c/w toxic metabolic encephalopathy.
   Follow neuro exam.
   She is in MOSF with underlying aggressive malignancy with poor
   prognosis.  We continue to update family regarding worsening status and
   to address goals of care.
   SMALL CELL CA
Radiation Oncology and Oncology services involved
   appreciate recommendations and guidance.  Monitor for tumor lysis.
   Discuss with onc teams regarding prognosis as this will be helpful as
   we continue to talk with pt family. Continue neutropenic precautions.
   Her SVC cyndrome appears improved after XRT.
   Thrombocytopenia--likely chemo related, low clinical suspicion for HIT.
   Continue to follow, monitor DIC labs.
   Her renal function continues to decline with decreasing urine ouput.
   With GMA likely from uremia from ARF. Evidence for ATN (muddy brown
   casts) on UA. Renal is following.  Continue bicitra and fluids. No
   acute indication for HD at this time. Continue to support with
   ventilator for acidosis, though we are limited as to further ability to
   correct with vent given ET location and persistent cuff leak. Avoid
   nephrotoxins and renally dose meds.
   HYPERNATREMIA--correcting free water deficit with D5W.
   Remainder as per resident note.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2172-9-5**] 03:41 AM 25 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2172-8-26**] 01:00 AM
   Multi Lumen - [**2172-8-26**] 03:37 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:  50
   Addendum
   Ecg c/w a- fib. Rates in 110-130 range with BP
s 90-100
s systolic.
   Cxr without evidence of pnx/tension. LENIs neg.
   We remain concerned for PE, tamponade, or possibly tumor compression of
   RV contributing to tachycardia and hypotension as well as evolving
   infection.
   --cards regarding bedside TTE,
   --pan cx
s sent,
   --we and oncology both feel risks of empiric anticoagulation are high
   given necrotic lung mass, and given neg leni
s and no change in
   oxygenation, will hold on empiric anticoagulation at this time.
   --continue IVF bolus to maintain MAPS > 60, vent support
   I met with pt
s son and sisters and updated them as to her declining
   condition.  All questions were answered.  Family understands that
   prognosis is poor and that pt is in MODS.  I readdressed goals of
   care.  Pt remains  DNR and ins etting of worsening hypotension we will
   not advance to adding pressors or escalation at this time.  We continue
   the current level of aggressive care with antibx, fluids, and vent
   support.  Pt comfort is primary concern of family and medical team.  We
   will keep family updated closely as to any changes and continue to
   address goals of care over time.  Will consider palliative care consult
   to further support family.
   Additional crit care time spent in family meeting, review of data and
   discussion with team about pt: 70 minutes

2172-09-06 09:20:00 Physician Attending Progress Note
Chief Complaint: resp failure, svc, large compressing lung ca
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 EKG - At [**2172-9-5**] 11:15 AM
 ULTRASOUND - At [**2172-9-5**] 03:11 PM
   nivs done at the bedside
   Developed atrial fibrillation (rates 110-140), hypotension, responsive
   to LR boluses
   lenis neg for dvt
   TTE--prelim --no, RV strain, unchanged pericardial eff
   Progressive resp on emt acidosis on vent--> multiple changes
   made/attempted including inflation of cuff to compensate for air leak
   with improvement, later with evidence of autopeep w/abg improvement
   after decreasing rate
   Urine outpt decreasing, Fio2 requirements increasing.
   Bicarb gtt started overnight for worsening acidemia
   History obtained from ho
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2172-9-5**] 12:00 PM
   Ciprofloxacin - [**2172-9-6**] 06:27 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2172-9-5**] 11:58 PM
   Pantoprazole (Protonix) - [**2172-9-6**] 07:59 AM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2172-9-6**] 08:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.8
C (98.2
   HR: 123 (118 - 138) bpm
   BP: 65/39(47) {65/39(47) - 103/72(84)} mmHg
   RR: 24 (20 - 32) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 66.2 kg (admission): 53 kg
   Height: 63 Inch
             Total In:
                                                                  5,509 mL
                                                                  4,434 mL
   PO:
             TF:
                                                                    502 mL
                                                                     35 mL
   IVF:
                                                                  4,318 mL
                                                                  4,249 mL
   Blood products:
   Total out:
                                                                  1,985 mL
                                                                  1,030 mL
   Urine:
                                                                  1,075 mL
                                                                     95 mL
   NG:
                                                                    210 mL
                                                                    260 mL
   Stool:
   Drains:
   Balance:
                                                                  3,524 mL
                                                                  3,404 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 80%
   RSBI Deferred: Hemodynamic Instability
   PIP: 40 cmH2O
   Plateau: 30 cmH2O
   SpO2: 100%
   ABG: 7.31/45/147/21/-3
   Ve: 13.5 L/min
   PaO2 / FiO2: 184
   Physical Examination
   General Appearance: Overweight / Obese, swelling upper ext, neck
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), [**Last Name (un) **], tachy
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: )
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Cool, mottling of [**Name Prefix (Prefixes) **]
   [**Last Name (Prefixes) **]: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, No(t) Sedated, Tone: Not
   assessed
   Labs / Radiology
   8.7 g/dL
   38 K/uL
   156 mg/dL
   2.8 mg/dL
   21 mEq/L
   3.8 mEq/L
   127 mg/dL
   110 mEq/L
   144 mEq/L
   26.8 %
   0.1 K/uL
        [image002.jpg]
                             [**2172-9-5**]  08:43 PM
                             [**2172-9-5**]  08:55 PM
                             [**2172-9-5**]  10:37 PM
                             [**2172-9-5**]  11:38 PM
                             [**2172-9-6**]  12:30 AM
                             [**2172-9-6**]  01:53 AM
                             [**2172-9-6**]  03:45 AM
                             [**2172-9-6**]  03:58 AM
                             [**2172-9-6**]  04:53 AM
                             [**2172-9-6**]  06:00 AM
   WBC
   0.1
   Hct
   26.8
   Plt
   38
   Cr
   2.7
   2.8
   TCO2
   20
   19
   20
   20
   20
   24
   24
   24
   Glucose
   177
   156
   Other labs: PT / PTT / INR:13.5/26.3/1.2, CK / CKMB /
   Troponin-T:97/4/<0.01, ALT / AST:13/27, Alk Phos / T Bili:87/0.2,
   Differential-Neuts:40.0 %, Band:0.0 %, Lymph:60.0 %, Mono:0.0 %,
   Eos:0.0 %, Fibrinogen:641 mg/dL, Lactic Acid:1.2 mmol/L, Albumin:1.8
   g/dL, LDH:366 IU/L, Ca++:7.6 mg/dL, Mg++:2.5 mg/dL, PO4:7.2 mg/dL
   Imaging: cxr:  et high, progressive b/l opacities
fluid, pna, b/l
   effusions and stable rul opacitfication, liekly post-obs
   pna/atelectasis
   Microbiology: no new growth
   Assessment and Plan
   58 yo f with respiratory failure in setting of newly diagnosed of lung
   ca (likely small cell) c/b SVC syndrome (partial compression), airway
   compromise (requiring Y-stent) admitted for xrt and chemotherapy with
   progrssive clinical decline.
   Issues include:
          Resp failure
          Small cell lung ca, airway collapse, R effusion
          Svc syndrome
          R pnx
          VAP
          Altered MS
          Tachycardia
          Hypotension
          ARF
          Thrombocytopenia
          hypernatremia
          Altered mental status, decreased level of consciousness
          Pancytopenia
   She is in MOSF with underlying aggressive malignancy with poor
   prognosis and continued decline.  We continue to update family
   regarding worsening status and to address goals of care.   We are
   limited as to options to further temporize.  Giving additional fluids
   is contributing to worsening oxygenation and thrid spacing and
   distneded tense abd.  Will stop fluids and compensate as able with
   vent.   Dialysis would furtehr prolong course in this patient and is
   unlikely to change to overall prognosis. Pngong goals of care to be
   addressed with family on update
   Pt
s respiratory failure is multifactorial, [**2-10**]
   malpositioning/migration of ETT between stent and tracheal wall,
   extrinsic and intrinsic narrowing of distal trachea and bronchi [**2-10**]
   lung mass, probable underlying COPD, and RLL and LLL (retrocardiac)
   infiltrates concerning for pneumonia (VAP), plugging. She is now more
   volume overloaded on higher fio2 and now with higher pressures.  Her
   belly is more tesne and she is nearly anuric.  We continue empiric
   antiibx (vanco,cipro,cef) following vanco levels as she has multifocal
   pna and post-obstructive pna.  Continue ACV support, adjusting MV to
   optimize pH as able.  Her PIPS/plkts are high
we will decrease her TV
   and accept ph > 7.2, can lower fio2 and accept pao2 > 65.  R CT remains
   in position while on MV.  Fluid overload/anuria is further contributing
   to her resp status
will stop bicarb gtt and check bladder pressures.
   She remains tachy and hypotensive. DDX includes--? new infection (on
   broad empiric coverage),  tension pnx, progression of pericardial
   effusion/tamponade and PE.   Bolus IVF, stat ecg as rate appears
   irregular, repeat cxr, and d/w cards repeat echo to assess for
   tamponade.  Pt is poor candidate for empiric antbx given necrotic tumor
   and thrombocytopenia and would hold on CTA gven ARF.  TEE may offer
   additional info regarding RV fx/.  Will also [**Doctor Last Name **] LENIs.  Pan cx. Trend
   lactates., given underlying lung process, her dead space fraction will
   be high and this is unlikely to clarify PE issue.  Her TTE at bedside
   on prelim does not suggest tamponade, rv failure.  Issues of worsening
   compression and decreased preload may also be eeffcting her pressures.
   She remains unresponsive, now off Propofol X 3 days.  Repeat head CT
   unrevealing. MRI not possible due to presence of intracranial surgical
   clips.  No evidence of sz on eeg. No evidence for carcinomatous
   meningitis by LP.  Likely most c/w toxic metabolic encephalopathy with
   component of uremia. Follow neuro exam.
   SMALL CELL CA
Radiation Oncology and Oncology services involved
   appreciate recommendations and guidance.  Monitor for tumor lysis.
   Discuss with onc teams regarding prognosis as this will be helpful as
   we continue to talk with pt family. Continue neutropenic precautions.
   Her SVC cyndrome appears improved after XRT.
   Thrombocytopenia/pancytopenia--likely chemo related, in combintaion
   with overall organ failure, low clinical suspicion for HIT. Continue to
   follow, monitor DIC labs.  Sq heparin is now off.
   Her renal function continues to decline with decreasing urine ouput.
   With GMA likely from uremia from ARF. Evidence for ATN (muddy brown
   casts) on UA.  Renal is following.  Will stop fluids given tense abd
   and wrosening oxygenation and will check bladder pressure. Continue to
   support with ventilator for acidosis, though we are limited as to
   further ability to correct with vent given ET location and persistent
   cuff leak. Avoid nephrotoxins and renally dose meds.
   Remainder as per resident note.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2172-9-5**] 03:41 AM 10 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2172-8-26**] 01:00 AM
   Multi Lumen - [**2172-8-26**] 03:37 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: sq hep held for low plts)
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill